US07741355B2
2-Isopropyl-5-methyl-cyclohexanecarboxylic (2-amino-4-methoxyphenyl)-amide
2-Isopropyl-5-methyl-cyclohexanecarboxylic acid (4-methoxy-2-nitrophenyl)-amide (4.9 g) was dissolved in a suspension of 10% Pd—C (5 g) and THF (150 mL). The reaction mixture was hydrogenated over 20% Pd(OH)2 for 48 h with a balloon. The reaction mixture was filtered and concentrated to give the desired compound in sufficient purity to use in the next reaction without further purification.

reactant | 2-Isopropyl-5-methyl-cyclohexanecarboxylic acid (4-methoxy-2-nitrophenyl)-amide | 4.9 g | COC1=CC(=C(C=C1)NC(=O)C1C(CCC(C1)C)C(C)C)[N+](=O)[O-] | C18H26N2O4
solvent | Pd—C | 5 g | [Pd] | Pd
solvent | THF | 150 mL | C1CCOC1 | C4H8O
catalyst | Pd(OH)2 | [OH-].[OH-].[Pd+2]
product | 2-Isopropyl-5-methyl-cyclohexanecarboxylic (2-amino-4-methoxyphenyl)-amide | NC1=C(C=CC(=C1)OC)NC(=O)C1C(CCC(C1)C)C(C)C | C18H28N2O2
